US06482824B1
To a solution of 3-(4-methoxyphenyl)-2-methylpropenaldehyde (10.3 g, 0.058 mol) in dried diethyl ether (150 ml) cooled to −15° C. and stirred under an atmosphere of nitrogen was added a solution of ethylmagnesium bromide in diethylether (3M, 21.4 ml). The reaction mixture was allowed to warm to room temperature and after ½ hour poured onto ice cold aqueous hydrochloric acid (2M, 50 ml). The organic phase was separated, washed with water, a saturated solution of sodium bicarbonate and brine. The organic phase was dried over magnesium sulphate, filtered and evaporated to give 3-hydroxy-1-(4-methoxyphenyl)-2-methylpent-1-ene as a yellow oil.

reactant | 3-(4-methoxyphenyl)-2-methylpropenaldehyde | 0.058 mol, 10.3 g | COC1=CC=C(C=C1)C=C(C=O)C | C11H12O2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethylether | 3M, 21.4 ml | C(C)OCC | C4H10O
product | 3-hydroxy-1-(4-methoxyphenyl)-2-methylpent-1-ene | OC(C(=CC1=CC=C(C=C1)OC)C)CC | C13H18O2
